US07585886B2
A 10 ml THF solution of 500 mg of tert-butyl [(1R)-1-(1-naphthyl)ethyl][(4-phenylpyrrolidin-3-yl)methyl]carbamate was mixed with 0.26 ml of methanesulfonyl chloride and stirred at 50° C. A 0.24 ml portion of triethylamine and 20 ml of water were added thereto, and the solvent was evaporated. This was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate, and the solvent was evaporated. The thus obtained residue was treated with 4 M hydrogen chloride/ethyl acetate solution and recrystallized from ethyl acetate-hexane to obtain 294 mg of (1R)—N-{[(methylsulfonyl)-4-phenylpyrrolidin-3-yl]methyl}-1-(1-naphthyl)ethanamine hydrochloride as colorless crystals.

reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | tert-butyl [(1R)-1-(1-naphthyl)ethyl][(4-phenylpyrrolidin-3-yl)methyl]carbamate | 500 mg | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N(C(OC(C)(C)C)=O)CC1CNCC1C1=CC=CC=C1 | C28H34N2O2
reactant | methanesulfonyl chloride | 0.26 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | water | 20 ml | O | H2O
product | (1R)—N-{[(methylsulfonyl)-4-phenylpyrrolidin-3-yl]methyl}-1-(1-naphthyl)ethanamine hydrochloride | 294 mg | Cl.CS(=O)(=O)N1CC(C(C1)C1=CC=CC=C1)CN[C@H](C)C1=CC=CC2=CC=CC=C12 | InChI=1S/C24H28N2O2S.ClH/c1-18(22-14-8-12-19-11-6-7-13-23(19)22)25-15-21-16-26(29(2,27)28)17-24(21)20-9-4-3-5-10-20;/h3-14,18,21,24-25H,15-17H2,1-2H3;1H/t18-,21?,24?;/m1./s1
